US06583126B2
Step 1 1,2-diphenyl-1-propanone
To deoxybenzoin (0.500 g, 2.55 mmol) in THF (12 mL) at −78° C. were added a THF solution of potassium tert-butoxide 1M (2.5 mL, 2.55 mmol) and MeI (0.396 mL). After a period of 0.5 h, at room temperature, NH4OAc aqueous was added to the reaction mixture. The organic phase was separated, dried over NaSO4, filtered and evaporated. The residue was purified by flash chromatography to give the title compound.

reactant | deoxybenzoin | 2.55 mmol, 0.500 g | C1(=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C14H12O
reactant | potassium tert-butoxide | 2.55 mmol, 1M, 2.5 mL | CC(C)([O-])C.[K+]
reactant | MeI | 0.396 mL | CI | CH3I
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 1,2-diphenyl-1-propanone | C1(=CC=CC=C1)C(C(C)C1=CC=CC=C1)=O | C15H14O
